US07230098B2
To a solution of 2-amino-5-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-pyridin-3-ol (prepared according to the procedures for 2-amino-5-phenyl-pyridin-3-ol in Example I-88) (45.5 mg, 0.14 mmol) in DMF (3 mL) at 0° C. was added NaH (60% in oil) (5.6 mg, 0.14 mmol) and the mixture was stirred at 0° C. for 20 min. Then 1-Bromomethyl-3-nitro-benzene was added and the mixture was stirred at 0° C. for 1 hr and at room temperature for 2 hr. Cold 1 N aqueous HCl (0.1 mL) was added and the solvent was removed under reduced pressure. The residue was purified with silica gel chromatography (CH2Cl2:MeOH:NH4OH=100:3:0.3) to give 5-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-3-(3-nitro-benzyloxy)-pyridin-2-ylamine as yellow solid (44 mg, 68%).

reactant | 2-amino-5-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-pyridin-3-ol | NC1=NC=C(C=C1O)C1=CC=C(C=C1)OCCN1CCOCC1 | C17H21N3O3
reactant | 2-amino-5-phenyl-pyridin-3-ol | NC1=NC=C(C=C1O)C1=CC=CC=C1 | C11H10N2O
reactant | NaH | 0.14 mmol, 5.6 mg | [H-].[Na+]
reactant | 1-Bromomethyl-3-nitro-benzene | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | HCl | 1 N, 0.1 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-3-(3-nitro-benzyloxy)-pyridin-2-ylamine | 44 mg, 68% | N1(CCOCC1)CCOC1=CC=C(C=C1)C=1C=C(C(=NC1)N)OCC1=CC(=CC=C1)[N+](=O)[O-] | C24H26N4O5
